US09376422B2
Step 5: Synthesis of 3,6-dichloro-N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-4-[methyl(piperidin-4-yl)amino]pyridine-2-carboxamide hydrochloride
Tert-butyl4-[(3,6-dichloro-2-{[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]carbamoyl}pyridin-4-yl)(methyl)amino]piperidine-1-carboxylate (310 mg, 1.29 mmol) was dissolved in 4M HCl in dioxane solution (3 ml) and stirred at room temperature for 16 h after which the solvent was evaporated and the compound purified by preparative HPLC to afford the title compound as a beige powder (13 mg, 14%). LC-MS 100%, 2.41 min (7 minute LC-MS method), m/z=438.1/439.8, 1H NMR (500 MHz, Methanol-d4) δ 7.12 (s, 1H), 6.11 (s, 1H), 4.46 (s, 2H), 4.01-3.81 (m, 1H), 3.45 (d, J=12.9 Hz, 2H), 3.12-2.97 (m, 2H), 2.82 (s, 3H), 2.35 (s, 3H), 2.22 (s, 3H), 2.13-1.93 (m, 4H).

reactant | Tert-butyl4-[(3,6-dichloro-2-{[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]carbamoyl}pyridin-4-yl)(methyl)amino]piperidine-1-carboxylate | 1.29 mmol, 310 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C)C1=C(C(=NC(=C1)Cl)C(NCC=1C(NC(=CC1C)C)=O)=O)Cl | C25H33Cl2N5O4
solvent | HCl | 4M | Cl | ClH
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 3,6-dichloro-N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-4-[methyl(piperidin-4-yl)amino]pyridine-2-carboxamide hydrochloride | 13 mg, 14% | Cl.ClC=1C(=NC(=CC1N(C1CCNCC1)C)Cl)C(=O)NCC=1C(NC(=CC1C)C)=O | InChI=1S/C20H25Cl2N5O2.ClH/c1-11-8-12(2)25-19(28)14(11)10-24-20(29)18-17(22)15(9-16(21)26-18)27(3)13-4-6-23-7-5-13;/h8-9,13,23H,4-7,10H2,1-3H3,(H,24,29)(H,25,28);1H
